US07495110B2
Stage 1: methyl 1-{3-[methyl(2-pyridin-2-ylethyl)amino]propyl}-2-thioxo-2,3-dihydro-1H-benzimidazole-5-carboxylate
A mixture of methyl 3-amino-4-({3-[methyl(2-pyridin-2-ylethyl)amino]propyl}amino)benzoate (4.09 g, 1 eq) and thiocarbonyldiimidazole (2.77 g, 1.3 eq) in tetrahydrofuran (100 ml) is stirred at approximately 20° C. for 15 hours. After concentration under reduced pressure at 40° C., the residue obtained is taken up in dichloromethane (150 ml) and water (50 ml). After decanting and extracting, the combined organic phases are washed with salt water, dried over Na2SO4 then evaporated under reduced pressure at 40° C. Purification by flash chromatography on silica gel (eluent: 100% dichloromethane to dichloromethane/methanol 9:1) produces the expected compound in the form of a foam (3.94 g; 85% yield).

reactant | methyl 3-amino-4-({3-[methyl(2-pyridin-2-ylethyl)amino]propyl}amino)benzoate | 4.09 g, 1 eq | NC=1C=C(C(=O)OC)C=CC1NCCCN(CCC1=NC=CC=C1)C | C19H26N4O2
reactant | thiocarbonyldiimidazole | 2.77 g, 1.3 eq | C(=S)(N1C=NC=C1)N1C=NC=C1 | C7H6N4S
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
solvent | water | 50 ml | O | H2O
product | methyl 1-{3-[methyl(2-pyridin-2-ylethyl)amino]propyl}-2-thioxo-2,3-dihydro-1H-benzimidazole-5-carboxylate | 85% yield | CN(CCCN1C(NC2=C1C=CC(=C2)C(=O)OC)=S)CCC2=NC=CC=C2 | C20H24N4O2S
